US06642226B2
Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-[4-(4-cyclopropylmethyl-piperazin-1-yl)-3-(4-fluoro-phenyl)-piperidin-1-yl]-methanone
The title compound, MS: m/e=558.3 (M+H+), was prepared in accordance with the general method of example 35 from rac-cis-(3,5-bis-trifluoromethyl-phenyl)-[3-(4-fluoro-phenyl)-4-piperazin-1-yl-piperidin-1-yl]-methanone and bromomethyl cyclopropane.

reactant | rac-cis-(3,5-bis-trifluoromethyl-phenyl)-[3-(4-fluoro-phenyl)-4-piperazin-1-yl-piperidin-1-yl]-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)N1CCNCC1)C1=CC=C(C=C1)F)(F)F | C24H24F7N3O
reactant | bromomethyl cyclopropane | BrCC1CC1 | C4H7Br
product | Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-[4-(4-cyclopropylmethyl-piperazin-1-yl)-3-(4-fluoro-phenyl)-piperidin-1-yl]-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)N1CCN(CC1)CC1CC1)C1=CC=C(C=C1)F)(F)F | C28H30F7N3O
